US08486939B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (92 mg, 0.25 mmol) and N-methylbenzylamine (76 mg, 0.625 mmol) in dioxane (5 mL) was heated to reflux for 5 min and cooled. The mixture was diluted with water to give a white precipitate, which was recrystallised from EtOH to give N-benzyl-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-1,3,5-triazin-2-amine: mp 147-150° C.; 1H NMR (CDCl3) (rotamers) δ 8.45 and 8.22 (2d, J=7.6 and 7.9 Hz, 1H), 7.90 and 7.85 (2d, J=8.3 and 7.7 Hz, 1H), 7.68 and 7.44 (2t, JHF=53.7 and 53.6 Hz, 1H), 7.43-7.25 (m, 7H), 4.92 and 4.90 (2s, 2H), 3.95-3.73 (m, 8H), 3.22 and 3.20 (2s, 3H); Anal. Calc. for C23H23F2N7O: C, 61.2; H, 5.1; N, 21.7. Found: C, 61.45; H, 5.2; N, 21.95%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.25 mmol, 92 mg | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | N-methylbenzylamine | 0.625 mmol, 76 mg | CNCC1=CC=CC=C1 | C8H11N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-benzyl-4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-methyl-6-(4-morpholinyl)-1,3,5-triazin-2-amine | C(C1=CC=CC=C1)N(C1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2)C(F)F)N2CCOCC2)C | C23H23F2N7O
